US08629271B2
a) 6-(2,2-Dimethoxyethylthio)hexan-1-ol
To a solution of 6-mercapto-hexan-1-ol (2.5 mL) in MeCN (30 mL) at 0° C. was added sodium hydride (60% suspension in mineral oil, 0.81 g). The mixture was stirred at 0° C. for 1 h then 2-bromo-1,1-dimethoxy-ethane (2.4 mL) was added. The resulting mixture was stirred at RT for 20 h, then was quenched by addition of saturated sodium bicarbonate solution. The mixture was extracted with ethyl acetate (×3), then the combined organics were washed with saturated sodium bicarbonate solution, then with brine, dried over sodium sulfate, filtered and evaporated in vacuo. Purification was by silica gel chromatography eluting with 25% ethyl acetate in cyclohexane to give the subtitled compound as a colourless liquid. Yield 1.85 g.

reactant | 6-mercapto-hexan-1-ol | 2.5 mL | SCCCCCCO | C6H14OS
reactant | sodium hydride | 0.81 g | [H-].[Na+]
reactant | 2-bromo-1,1-dimethoxy-ethane | 2.4 mL | BrCC(OC)OC | C4H9BrO2
solvent | MeCN | 30 mL | CC#N | C2H3N
product | 6-(2,2-Dimethoxyethylthio)hexan-1-ol | COC(CSCCCCCCO)OC | C10H22O3S
